US07601846B2
2-(Benzothiazol-2-ylsulfanyl)-1-p-tolyl-ethanone hydrobromide salt (22)
A mixture of 2-mercaptobenzothiazole (570 mg, 3.34 mmol) and 2-bromo-4′-methylacetophenone (870 mg, 3.67 mmol) was refluxed in ethanol (15 mL) for 90 minutes. The solution was cooled in the fridge to give a yellow solid in 18% yield: mp 76-78° C.; 1H-NMR (DMSO-d6) 2.42 (s, 3H), 5.15 (s, 2H), 7.36 (t, 1H), 7.41 (d, 2H), 7.44 (t, 1H), 7.78 (d, 1H), 8.00 (m, 3H); Anal. (C16H14BrNOS2½ H2O) C, H, N.

reactant | 2-mercaptobenzothiazole | 3.34 mmol, 570 mg | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | 2-bromo-4′-methylacetophenone | 3.67 mmol, 870 mg | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | H2O | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-(Benzothiazol-2-ylsulfanyl)-1-p-tolyl-ethanone hydrobromide salt | 18% yield | Br.S1C(=NC2=C1C=CC=C2)SCC(=O)C2=CC=C(C=C2)C | InChI=1S/C16H13NOS2.BrH/c1-11-6-8-12(9-7-11)14(18)10-19-16-17-13-4-2-3-5-15(13)20-16;/h2-9H,10H2,1H3;1H
